US03963706
c. 1-Cyclohexyl-3-(4-nitrophenyl)-imidazolidin-4-one
2-Cyclohexylamino-N-(4-nitrophenyl)-acetamide (3.5g) were added to ethanol (85 ml). p-Formaldehyde (0.8g) in water (110 ml) was added and the mixture was refluxed 4 hours, cooled and filtered to yield 3.1 g, m.p. 132°-133°C

reactant | 2-Cyclohexylamino-N-(4-nitrophenyl)-acetamide | 3.5g | C1(CCCCC1)NCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C14H19N3O3
reactant | ethanol | 85 ml | C(C)O | C2H6O
solvent | water | 110 ml | O | H2O
product | 1-Cyclohexyl-3-(4-nitrophenyl)-imidazolidin-4-one | C1(CCCCC1)N1CN(C(C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O3
